US08557983B2
methyl 4-fluoro-2-(3-fluoro-2-nitrophenoxy)benzoate
To a solution of methyl 4-fluoro-2-hydroxybenzoate (1.225 g) in anhydrous tetrahydrofuran (25 mL) was added potassium t-butoxide (0.808 g). The mixture was stirred for 20 minutes at room temperature. A solution of 1,3-difluoro-2-nitrobenzene (0.955 g) in tetrahydrofuran (6 mL) was then added dropwise. The resulting mixture was stirred at room temperature for 1 hour, then at 80° C. overnight. The reaction mixture was quenched with water (40 mL) and extracted with dichloromethane. The organic solution was dried (MgSO4), filtered and concentrated. The residue was purified on a silica gel column, eluting with 25% ethyl acetate in hexane to obtain the title compound.

reactant | methyl 4-fluoro-2-hydroxybenzoate | 1.225 g | FC1=CC(=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | potassium t-butoxide | 0.808 g | CC(C)([O-])C.[K+]
reactant | 1,3-difluoro-2-nitrobenzene | 0.955 g | FC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | methyl 4-fluoro-2-(3-fluoro-2-nitrophenoxy)benzoate | FC1=CC(=C(C(=O)OC)C=C1)OC1=C(C(=CC=C1)F)[N+](=O)[O-] | C14H9F2NO5
